US07018685B2
A solution of 94 mmol of n-butyllithium (1.6 M solution in hexane) in 50 ml of dry tetrahydrofuran is cooled to ≦70° C. and admixed dropwise under a protective gas atmosphere with a solution of 94 mmol of potassium tert-butoxide in 100 ml. of the same solvent. After stirring for 15-30 min, a solution of 78 mmol of 1,8-difluorofluorene in 200 ml of tetrahydrofuran is added dropwise at such a rate that the internal temperature is always below −70° C. Subsequently, stirring is continued at this temperature for another 2 h. A solution of 117 mmol of trimethyl borate in 100 ml of tetrahydrofuran is then added dropwise and the mixture is allowed to thaw gradually. The reaction mixture is admixed at −10° C. with 50 ml of water and acidified to pH I with concentrated hydrochloric acid. The phases are separated, the organic phase is washed with saturated sodium chloride solution and dried over sodium sulfate, and the solvent is removed under reduced pressure. 1,8-Difluorofluorene-2-boronic acid is obtained which is reacted further without purification.

reactant | n-butyllithium | 94 mmol, 1.6 M | C(CCC)[Li]
reactant | potassium tert-butoxide | 94 mmol | CC(C)([O-])C.[K+]
reactant | 1,8-difluorofluorene | 78 mmol | FC1=CC=CC=2C3=CC=CC(=C3CC12)F | C13H8F2
reactant | trimethyl borate | 117 mmol | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 1,8-Difluorofluorene-2-boronic acid | FC1=C(C=CC=2C3=CC=CC(=C3CC12)F)B(O)O | C13H9BF2O2
